US04260803
p-Chloromethylbenzoicacid-α-napthyl ester
72.1 g (0.5 mole) of α-naphthol was heated to 50° C. with 150 ml of benzene and 0.5 ml of N-methylpyrrolidine, whereupon a clear solution was obtained. Following the procedure of Method C, 95 g (0.5 mole) of p-chloromethylbenzoyl chloride dissolved in 80 ml of benzene was added drop by drop over a period of about 30 minutes, and then the mixture was refluxed for 5 hours under a weak current of nitrogen gas. The benzene was then distilled from the clear, orange-colored solution. The residue crystallized upon cooling to a yellow mass amounting to 148 g (100%), M.P. 93°-96° C. The entire amount of the raw product was recrystallized from 3 liters of cyclohexane with the addition of decolorizing carbon. About 80% of the material put in was obtained in light yellow needles of a melting point of 104°-106° C. For the analysis, 20 g was again recrystallized from 400 ml of cyclohexane. 16.5 g of very pale yellow needles was obtained, M.P. 105°-106.5° C.

reactant | α-naphthol | 0.5 mole, 72.1 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | N-methylpyrrolidine | 0.5 ml | CN1CCCC1 | C5H11N
reactant | p-chloromethylbenzoyl chloride | 0.5 mole, 95 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | p-Chloromethylbenzoicacid-α-napthyl ester | C1(=CC=CC2=CC=CC=C12)OC(C1=CC=C(C=C1)CCl)=O | C18H13ClO2
